US06232310B1
a) N-(2-Cyanomethylsulfanyl-4-methoxyphenyl)acetamide
Sodium borohydride (0.19 g) was added in small portions over 30 min to a stirred solution of bis(2-acetylamino-5-methoxyphenyl)disulfane(1.0 g, Hodgson; Handley, J. Chem. Soc., 1928, 626) in dry ethanol (100 ml) at 70° C. under nitrogen. The mixture was cooled to room temperature and iodoacetonitrile (355 μl) was added. After stirring for 15 min the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (50 ml) and water (50 ml). The organic phase was extracted with 2×50 ml of water and dried over sodium sulfate. Removal of the solvent gave the pure title compound as white crystals. Yield 1.06 g (91%), mp 130.5-131.5° C., 1H-NMR (DMSO-d6), δ (ppm): 9.48 (s, 1H, NH), 7.23 (d, J=9 Hz, 1H), 7.08 (d, J=3 Hz, 1H), 6.88 (dd, 1H), 4.18 (s, 2H, CH2), 3.78 (s, 3H, CH3O), 2.01 (s, 3H, CH3).

reactant | Sodium borohydride | 0.19 g | [BH4-].[Na+]
reactant | bis(2-acetylamino-5-methoxyphenyl)disulfane | 1.0 g | C(C)(=O)NC1=C(C=C(C=C1)OC)SSC1=C(C=CC(=C1)OC)NC(C)=O | C18H20N2O4S2
reactant | iodoacetonitrile | 355 μl | ICC#N | C2H2IN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-Cyanomethylsulfanyl-4-methoxyphenyl)acetamide | C(#N)CSC1=C(C=CC(=C1)OC)NC(C)=O | C11H12N2O2S
